US03984555
19.2 g (0.06 moles) of 2-(2-bromobutyrylamino) benzamide and 35.7 g (0.186 moles) of 1-(2-methoxyphenyl)piperazine are heated to 70° C for 2 hours whilst stirring, and then mixed with a solution of 6.4 g of potassium hydroxide in 70 mls. of glycolmonoethyl ether and then heated to 70° C for a further 30 minutes. The reaction mixture is distributed between saturated ammonium chloride solution and chloroform, the chloroform phase is separated and after drying over calcined potassium carbonate is concentrated by evaporation in vacuo. The oily residue is boiled up with ethyl acetate, allowed to cool slowly and the crystal mass is filtered off at the pump. By redissolving in a 9:1 mixture of ethyl acetate and methyl alcohol it is possible to purify the crude product. In this way one obtains 21.3 g (83.5% of theory) of 2-(α-(1-2-methoxyphenyl)-piperazinyl-4)-n-propyl)- 4(3H)-quinazolone with a melting point of 180°-181° C.

reactant | 2-(2-bromobutyrylamino) benzamide | 0.06 moles, 19.2 g | BrC(C(=O)NC1=C(C(=O)N)C=CC=C1)CC | C11H13BrN2O2
reactant | 1-(2-methoxyphenyl)piperazine | 0.186 moles, 35.7 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | potassium hydroxide | 6.4 g | [OH-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
product | 4(3H)-quinazolone | N1=CNC(C2=CC=CC=C12)=O | C8H6N2O
